US07125900B2
N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-4-chlorobenzenesulfonamide
The title compound was prepared from 5-acetyl-2-amino-4-methylthiazole and 4-chlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (12.2 mg) with purity >90%. LCMS (pos) m/z 331.2.

reactant | 5-acetyl-2-amino-4-methylthiazole | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-4-chlorobenzenesulfonamide | C(C)(=O)C1=C(N=C(S1)NS(=O)(=O)C1=CC=C(C=C1)Cl)C | C12H11ClN2O3S2
